US06822090B2
To the suspension of 3.00 g of 3′,5′-O-bis(4-chlorobenzoyl)thymidine (a uridine derivative, where X is methyl group) in 15 mL of acetonitrile was added 0.85 mL (1.2 times moles based on the uridine derivative) of 1-methylpiperidine and 1.70 mL of triethylamine, and the resulting mixture was cooled. The solution of 2.31 g of p-toluenesulfonyl chloride in 15 ml of acetonitrile was added dropwise with keeping the temperature at 0° C. or below 0° C., and the mixture was stirred for 3 hours with keeping the temperature at 0° C. or below 0° C. With keeping the temperature at 0° C. or below 0° C., 15 ml of 28% ammonia water was added, and the mixture was stirred for 6hours. After the filtration of the solvent, 10 mL of methanol was added to the resulting residue, and the mixture was stirred for 2 hours with ice cooling. After the filtration of the solvent, the resulting solid was dried to give 1.59 g of 3′,5′-O-bis(4-chlorobenzoyl)-5-methyl-2′-deoxycytidine as a light brown solid. Yield 52%.

reactant | 3′,5′-O-bis(4-chlorobenzoyl)thymidine | 3.00 g | ClC1=CC=C(C(=O)[C@@]2(C[C@@H](O[C@@H]2COC(C2=CC=C(C=C2)Cl)=O)N2C(=O)NC(=O)C(C)=C2)O)C=C1 | C24H20Cl2N2O7
reactant | uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | 1-methylpiperidine | CN1CCCCC1 | C6H13N
reactant | p-toluenesulfonyl chloride | 2.31 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonia water | 15 ml | O.N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | triethylamine | 1.70 mL | C(C)N(CC)CC | C6H15N
product | 3′,5′-O-bis(4-chlorobenzoyl)-5-methyl-2′-deoxycytidine | 1.59 g, Yield 52% | ClC1=CC=C(C(=O)[C@@]2(C[C@@H](O[C@@H]2COC(C2=CC=C(C=C2)Cl)=O)N2C(=O)N=C(N)C(=C2)C)O)C=C1 | C24H21Cl2N3O6
